US04582907
2-(2-Amino-2-thiazolin-4-yl)acetic acid
A solution of 1.965 g. (0.010 mole) 2-(2-amino-2-thiazolin-4-yl)acetic acid hydrochloride in 150 ml. water is titurated with an equimolar amount of 1.0N sodium hydroxide solution. The resulting mixture is stirred with cooling at 5° C. for two hours then filtered. The sodium salt is washed with cold water, ethanol and dried.

reactant | 2-(2-amino-2-thiazolin-4-yl)acetic acid hydrochloride | 0.010 mole | Cl.NC=1SCC(N1)CC(=O)O
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(2-Amino-2-thiazolin-4-yl)acetic acid | NC=1SCC(N1)CC(=O)O | C5H8N2O2S
